US04421758
2 Drops of phosphorus oxytrichloride were added to a solution of 388 mg of 2-(2,4-dichlorophenoxymethyl)-3,4-dihydro-2H-pyran and 418 mg of 1-chloro-4-(2,4-dichlorophenyl)-2-butanol in 8 ml of diethyl ether, and the mixture was allowed to react at room temperature for 2 days. At the the end of this time, 3 drops of triethylamine were added and the solvent was evaporated off. The residue was purified by column chromatography through silica gel eluted with a 50:5:1 by volume mixture of hexane, benzene and ethyl acetate, to give 185 mg of the isomer of lesser polarity of trans-6-(2,4-dichlorphenoxymethyl)-2-[1-chloro-4-(2,4-dichlorophenyl)-2-butoxy]tetrahydropyran and 153 mg of the isomer of greater polarity.

reactant | phosphorus oxytrichloride | O=P(Cl)(Cl)Cl | Cl3OP
reactant | 2-(2,4-dichlorophenoxymethyl)-3,4-dihydro-2H-pyran | 388 mg | ClC1=C(OCC2OC=CCC2)C=CC(=C1)Cl | C12H12Cl2O2
reactant | 1-chloro-4-(2,4-dichlorophenyl)-2-butanol | 418 mg | ClCC(CCC1=C(C=C(C=C1)Cl)Cl)O | C10H11Cl3O
solvent | diethyl ether | 8 ml | C(C)OCC | C4H10O
catalyst | triethylamine | 3 drops | C(C)N(CC)CC | C6H15N
product | trans-6-(2,4-dichlorphenoxymethyl)-2-[1-chloro-4-(2,4-dichlorophenyl)-2-butoxy]tetrahydropyran | ClC1=C(OC[C@H]2CCC[C@@H](O2)OC(CCl)CCC2=C(C=C(C=C2)Cl)Cl)C=CC(=C1)Cl | C22H23Cl5O3
